* Z:\mnt\design.r\spice\examples\1430.asc
L1 N006 OUT 2.8µ
V1 IN 0 5
M§Q1 N006 N008 0 0 IRF7201 m=2
C3 N014 0 220p
C4 N013 0 4700p
R1 N014 N013 7.5K
R2 IN N002 16K
M§Q2 IN N003 N006 N006 IRF7201 m=2
R3 OUT N012 20K
R4 N012 0 12.5K
R5 N006 N005 1K
D1 IN N001 MBR0530L
C5 N001 N006 .22µ
C6 N007 0 .01µ
R6 IN N004 100
C9 N004 0 4.7µ
XU1 N003 N001 0 0 N015 N012 N010 N011 N007 N014 N009 N002 N005 N004 IN N008 LTC1430
Rload OUT 0 1
C1 OUT 0 330µ Rser=.1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.lib LTC1430.sub
.backanno
.end
